US08536168B2
5,6-Dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione (Compound 47)
1H-Imidazole-4,5-dicarboxylic acid dimethyl ester (592 mg, 3.21 mmol) is combined with hydrazine (600 mg, 18.8 mmol) and MeOH (10 mL). The reaction mixture is heated to 115° C. for 30 min. Cool and filter off the resulting precipitate. Wash with additional water. Combine the precipitate with hydrazine (1.38 mL) and reflux for 4 h. Pour the reaction mixture into ice water and adjust the to pH 2 with HCl (12 N). The new precipitate is isolated by filtration to afford the title product (293 mg, 60%)

reactant | 1H-Imidazole-4,5-dicarboxylic acid dimethyl ester | 3.21 mmol, 592 mg | COC(=O)C=1N=CNC1C(=O)OC | C7H8N2O4
reactant | hydrazine | 18.8 mmol, 600 mg | NN | H4N2
solvent | MeOH | 10 mL | CO | CH4O
product | 5,6-Dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione | 293 mg, 60% | N1C=NC2=C1C(NNC2=O)=O | C5H4N4O2
